US08791123B2
(R)—N-cyclopropyl-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method as described in Example 1 using (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation E) and cyclopropylamine to yield the title compound as a white solid (23 mg, 54% yield). MS (apci) m/z=366.1 (M+H).

reactant | (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H15FN4O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (R)—N-cyclopropyl-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 23 mg, 54% yield | C1(CC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=CC(=CC=C2)F | C20H20FN5O
